US06855716B2
Synthesis of 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy)methyl]-5-(3,3-diphenylpropylcarbamoyl)-2-phenyl-1,4-dihydropyrimidine
119 mg (1.06 mmol) of t-butoxypotassium was dissolved in 5 ml of DMF. 166 mg (1.06 mmol) of benzamidine monohydrochloride was added to the obtained solution under cooling with ice, and they were stirred for 30 minutes. A solution of benzyl 3-(chlorophenyl)-2-[2-(2-cyclohexyl-ethoxy)acetyl]acrylate (E/Z mixture) in 5 ml of DMF was added to the reaction mixture under cooling with ice. The obtained mixture was stirred for 3 hours while the temperature was elevated to room temperature. A catalytic amount of p-toluenesulfonic acid was added to the reaction mixture, and they were heated to 100° C. and stirred overnight. DMF was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1) to obtain the title compound.

reactant | t-butoxypotassium | 1.06 mmol, 119 mg | C(C)(C)(C)O[K]
reactant | benzamidine monohydrochloride | 1.06 mmol, 166 mg | Cl.C(C1=CC=CC=C1)(=N)N
reactant | benzyl 3-(chlorophenyl)-2-[2-(2-cyclohexyl-ethoxy)acetyl]acrylate | ClC1=C(C=CC=C1)C=C(C(=O)OCC1=CC=CC=C1)C(COCCC1CCCCC1)=O | C26H29ClO4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy)methyl]-5-(3,3-diphenylpropylcarbamoyl)-2-phenyl-1,4-dihydropyrimidine | ClC=1C=C(C=CC1)C1N=C(NC(=C1C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)COCCC1CCCCC1)C1=CC=CC=C1 | C41H44ClN3O2
